US04767764
To a suspension of 12.0 g of 35% potassium hydride in oil, prewashed with hexane, in 100 mL of tetrahydrofuran was added a solution of 9.91 g of 3-benzyl-5-hydroxymethyl-9-methoxy-1,2,3,4,5,6,7,7a-octahydro-4a,7-ethanobenzofuro[3,2-e]isoquinoline (E. Ciganek and B. K. Wong, coassigned pending application, U.S. Ser. No. 774,025) in 50 mL of tetrahydrofuran and the mixture was heated under reflux for 4 hours. Methyl iodide (5.2 g dissolved in 10 mL of tetrahydrofuran) was added to the cooled mixture which was then stirred at room temperature for 18 hours. Addition of 5% hydrochloride acid followed by aqueous ammonium hydroxide solution and extraction with methylene chloride gave 10.47 g of 3-benzyl-9-methoxy-5-methoxymethyl-1,2,3,4,5,6,7,7a-octahydro4a,7-ethanobenzofuro[3,2-e]isoquinoline. NMR spectrum (δ in CDCl3): 7.5-7.2 (m, 7H); 6.8 (m, 2H); 4.4 (s, 1H); 3.9 (s, 3H), 3.7 (d, J=12 Hz, 1H); 3.5 (d, J=12 H, 1H) and 3.2 (s, 3H), among others.

reactant | potassium hydride | 12.0 g | [H-].[K+]
reactant | 3-benzyl-5-hydroxymethyl-9-methoxy-1,2,3,4,5,6,7,7a-octahydro-4a,7-ethanobenzofuro[3,2-e]isoquinoline | 9.91 g | C(C1=CC=CC=C1)N1CC23C(CC(C4C2(CC1)C1=C(O4)C(=CC=C1)OC)CC3)CO | C26H31NO3
reactant | Methyl iodide | 10 mL, 5.2 g | CI | CH3I
reactant | hydrochloride | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3-benzyl-9-methoxy-5-methoxymethyl-1,2,3,4,5,6,7,7a-octahydro4a,7-ethanobenzofuro[3,2-e]isoquinoline | 10.47 g | C(C1=CC=CC=C1)N1CC23C(CC(C4C2(CC1)C1=C(O4)C(=CC=C1)OC)CC3)COC | C27H33NO3
